US06781009B2
After 0.4 g of potassium cyanide was added at room temperature to a solution of 1 g of Methyl 4-chloro-3-oxobutanoate in 20 ml of methanol, the resulting mixture was warmed to 40° C. and maintained for further 8 hours. Thereafter, reaction solution was cooled and pH of the solution was adjusted to 3 by adding 10 ml of water and a few drops of concentrated sulfuric acid. After the mixture was extracted thrice with diethyl ether, total amount of which was 100 ml, the separated organic layers were combined and concentrated under reduced pressure to give 0.6 g of methyl 4-cyano-3-oxobutanoate (Purity: 71%).

reactant | potassium cyanide | 0.4 g | [C-]#N.[K+]
reactant | Methyl 4-chloro-3-oxobutanoate | 1 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | water | 10 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | methyl 4-cyano-3-oxobutanoate | 0.6 g | C(#N)CC(CC(=O)OC)=O | C6H7NO3
